US07618978B2
Add di-tert-butyl dicarbonate (4.7 g, 21.6 mmol) to a solution of 2-(S)-dibenzylamino-3-phenyl-1-piperidin-2-(R/S)-yl-propan-1-(R)-ol (0.895 g, 2.16 mmol) and triethylamine (1.05 mL, 7.55 mmol) in dichloromethane (20 mL). Stir 18 h at room temperature and wash with water (2×50 mL), saturated aqueous sodium chloride, dry (magnesium sulfate) and purify (silica gel chromatography, eluting with hexanes and ethyl acetate) to give the title compounds as a foam, 2-(S)-(2-(S)-dibenzylamnino-1-(S)-hydroxy-3-phenylpropyl)-piperidine-1-carboxylic acid tert-butyl ester (0.077 g, 7%) and 2-(R)-(2-(S)-dibenzylamino-1-(S)-hydroxy-3-phenylpropyl)-piperidine-1-carboxylic acid tert-butyl ester (0.521 g, 47%).

reactant | di-tert-butyl dicarbonate | 21.6 mmol, 4.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(S)-dibenzylamino-3-phenyl-1-piperidin-2-(R/S)-yl-propan-1-(R)-ol | 2.16 mmol, 0.895 g | C(C1=CC=CC=C1)N(C([C@H](O)[C@H]1NCCCC1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C28H34N2O
reactant | triethylamine | 7.55 mmol, 1.05 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(R)-(2-(S)-dibenzylamino-1-(S)-hydroxy-3-phenylpropyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.521 g, 47% | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)[C@H]([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C33H42N2O3
